US08110687B2
A mixture of methyl 3-bromo-5-(trifluoromethyl)benzoate (5.10 g, 0.0180 mol), zinc cyanide (1.26 g, 0.0107 mol) and tetrakis(triphenylphosphine)palladium(0) (0.910 g, 0.000787 mol) in DMF (50 mL) was subjected to MWI for 20 min at 230° C. The solvent was evaporated and the residue was suspended in EtOAc. The organic solution was and washed with 1N HCl, water and brine, dried and concentrated. The residue was purified by column chromatography to give methyl 3-cyano-5-(trifluoromethyl)benzoate (2.67 g, 64%) as white solid. 1H NMR (400 MHz, CDCl3) δ: 8.50-8.52 (m, 2H), 8.09 (m, 1H), and 4.03 (s, 3H).

reactant | methyl 3-bromo-5-(trifluoromethyl)benzoate | 0.0180 mol, 5.10 g | BrC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6BrF3O2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.0107 mol, 1.26 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000787 mol, 0.910 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-cyano-5-(trifluoromethyl)benzoate | 2.67 g, 64% | C(#N)C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C10H6F3NO2
